Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
Hematemesis 

 
Major Surgical or Invasive Procedure:
___ Endoscopic US FNA
___ EGD with glue injection of gastric varices
___ ___ Splenic Vein Stent and femoral line placement
___ EGD
___ RIJ central line placement
___ splenic artery gelfoam embolization
 
History of Present Illness:
Mr ___ is a ___ male with history of GERD, PUD, depression, 
and recently discovered pancreatic mass with likely liver mets 
s/p EUS today with biopsy of a pancreatic mass, p/w hematemesis 
and melena 2 hours after procedure. 

He was ___ ___ following ERCP, went to restroom, vomited BRB, 
brought to ED by ambulance. 
 
___ the ED, initial vitals: 98.1 90 110/68 18 98% RA. 
Labs notable for H/H 9.9/30.1, WBC 21.0, INR 1.3, AST/ALT of 47, 
lactate 3.7, normal lytes. While ___ ED had repeat episode of 
hematemasis and melena, intubated, pressures dropped to 69/58 
transiently, improved with fluid. 
Given 3 L NS, octreotide and pantoprazole gtt. Given 2 U PRBCs.
GI c/s'd who recommended above, 1g CTX, plus urgent CTA to eval 
for bleed. ___ also FYI'd.
CTA A/P did not show active source of bleed. Went directly to 
___, where they also did not visualize a bleed, however given h/o 
biopsy/tumor invasion of GDA they embolized this area as likely 
source of bleed. 
   
A little back story: without insurance, and thus medical care, 
for some time. Started presenting to ___ ED ___ 
___ for abadominal pain, on ___/P which 
demonstrated a solid 3.8 cm x 4.2 cm mass within the body of the 
pancreas, encasing the superior mesenteric vein and extends to 
the hepatic artery and splenic arteries. ALso at least 2 lesions 
___ liver concerning for mets. Established care with ___ 
Oncology ___ 127.
 
Past Medical History:
- GERD
- PUD
- depression
- Pancreatic mass w/ liver mets, elevated ___
- HTN
- pre-diabetes 
- h/o alcohol abuse (sober ___ yrs)
 
Social History:
___
Family History:
- Father died of MI
- Mother died of lung cancer age ___
- One of 7 sibs
- No children
- 2 mat aunts with breast cancer
 
Physical Exam:
ADMISSION EXAM
Vitals: 98 132/77 92 
GENERAL: intubated, but alert, opening eyes, able to follow 
simple commands
HEENT: Sclera anicteric, blood around oropharynx and ___ OG-tube 
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

DISCHARGE EXAM
VS: Afebrile, HR 100-110s, BP 120/90s, 96% RA
GEN: AxOx3, NAD, lying comfortably ___ bed  
HEENT: PERRLA. MMM. no LAD. no JVD. neck supple.  
Cards: tachycardic, S1/S2 normal. no murmur/gallops/rubs.  
Pulm: BS decreased at bases, otherwise clear   
Abd: BS+, soft, NT, ttp epigastrium and L abdomen w/o rebound or 
guarding, moderately distended 
Extremities: wwp, no edema. DPs, PTs 2+.  
Skin: no rashes or bruising  
Neuro: A&Ox3, knows we are at BI ___ floor, knows date. CNs 
II-XII grossly intact. moving all extr 
 
Pertinent Results:
ADMISSION LABS: 
___ 03:30PM   ___ PTT-24.6* ___
___ 03:30PM   PLT COUNT-312
___ 03:30PM   NEUTS-85.2* LYMPHS-6.4* MONOS-7.3 EOS-0.2* 
BASOS-0.4 IM ___ AbsNeut-17.86* AbsLymp-1.35 AbsMono-1.53* 
AbsEos-0.04 AbsBaso-0.08
___ 03:30PM   WBC-21.0* RBC-3.77* HGB-9.9* HCT-30.1* 
MCV-80* MCH-26.3 MCHC-32.9 RDW-14.4 RDWSD-41.7
___ 03:30PM   ALBUMIN-3.3* CALCIUM-8.1* PHOSPHATE-3.1 
MAGNESIUM-1.7
___ 03:30PM   LIPASE-19
___ 03:30PM   ALT(SGPT)-47* AST(SGOT)-47* ALK PHOS-74 TOT 
BILI-0.8
___ 03:30PM   GLUCOSE-147* UREA N-17 CREAT-0.9 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-101 TOTAL CO2-26 ANION GAP-17
___ 03:53PM   LACTATE-3.7* K+-3.4
___ 11:16PM   PLT COUNT-226
___ 11:16PM   WBC-21.0* RBC-3.43* HGB-9.4* HCT-28.2* MCV-82 
MCH-27.4 MCHC-33.3 RDW-14.8 RDWSD-43.9
___ 11:37PM   freeCa-1.00*
___ 11:37PM   LACTATE-1.2

DISCHARGE LABS
===============
___ 07:05AM BLOOD WBC-18.1* RBC-3.29* Hgb-9.2* Hct-28.4* 
MCV-86 MCH-28.0 MCHC-32.4 RDW-15.9* RDWSD-50.1* Plt ___
___ 07:05AM BLOOD Neuts-90* Bands-0 Lymphs-2* Monos-7 Eos-1 
Baso-0 ___ Myelos-0 AbsNeut-16.29* AbsLymp-0.36* 
AbsMono-1.27* AbsEos-0.18 AbsBaso-0.00*
___ 07:05AM BLOOD ___ PTT-25.6 ___
___ 07:05AM BLOOD Glucose-117* UreaN-13 Creat-0.4* Na-135 
K-3.3 Cl-97 HCO3-28 AnGap-13
___ 07:05AM BLOOD ALT-36 AST-41* LD(LDH)-575* AlkPhos-97 
TotBili-1.5
___ 07:05AM BLOOD Calcium-7.8* Phos-2.2* Mg-2.1

IMAGING:
========== 
CXR ___: Subtle right midlung opacity, nonspecific.  No 
evidence of intra-abdominal free air.  

CTA C/A/P ___: 
1. No evidence of active gastrointestinal bleed or enteric 
fistula. 
2. Poorly evaluated pancreatic mass encasing the celiac artery 
and its branches with multiple hepatic lesions concerning for 
metastatic malignancy. 
3. High density material ___ the cecum, ascending colon and 
transverse colon likely reflective of recent gastrointestinal 
bleed. 
4. Nodular opacities ___ the right upper lobe suggestive of 
aspiration. 

Mesenteric Angiogram ___: 
FINDINGS:    
1.  Pre embolization arteriogram of the common trunk of the 
celiac artery and SMA demonstrating a narrow common hepatic 
artery and an irregular gastroduodenal artery, likely tumor 
related.  No active extravasation of contrast identified. 
2.  Coil embolization of the GDA with six 3 mm x 3 cm Hilal 
coils, 6 mm x 2 cm Concerto coil, and 5 mm x 6 cm Hilal coil. 
3.  Post embolization arteriogram of the common trunk of the 
celiac artery and SMA demonstrating no significant flow into the 
GDA.  No active extravasation 
of contrast identified. 
4.  Intravenous right femoral catheter. 
5.  Left common femoral arteriogram showing normal anatomy with 
low common femoral artery bifurcation. 
IMPRESSION:  
Successful left common femoral artery approach coil embolization 
of the 
gastroduodenal artery. 

CT A/P ___: 
IMPRESSION: 
1. Interval coiling of the GDA, with as well as variceal 
treatment ___ the 
gastric fundus. Interval significant decrease ___ the 
intraluminal hemorrhage within the gastrointestinal tract.  No 
evidence of active extravasation. 
2. Small to moderate hemoperitoneum, 
3. Large ill-defined mass ___ the pancreatic neck and body, 
likely representing primary adenocarcinoma.  Complete encasement 
of the celiac axis branches as well as contact of the SMA ___ the 
context of a common trunk supplying celiac and SMA.  Obliterated 
portal confluence, proximal SMV, and splenic vein. Multiple 
small peripancreatic satellite nodules. 
4. Mildly enlarged peripancreatic lymph nodes. 
5. Multiple hepatic metastases. 
6. Interval worsening consolidation within the left lower lobe 
superimposed over atelectasis, likely related to aspiration. 

GI Embolization ___: IMPRESSION:  
 1. Successful recannulization of occluded splenic vein with 
stent placement from the splenic vein to the main portal vein 
with reduction ___ gastric varices on splenic venogram. 
2.  Successful placement of a left common femoral vein triple 
lumen central venous catheter. 

CT A/P ___:
1. Large hemoperitoneum is increased compared to prior, with new 
perisplenic hematoma and sentinel clot tracking within the left 
upper quadrant to the mid abdomen.  These findings suggest the 
spleen as a source of bleeding, although no active extravasation 
is appreciated.  The Amplatzer device is ___ place at the site of 
splenic access with some adjacent hypoperfusion of the splenic 
parenchyma compatible with infarct or post procedure changes. 
2. The portal and splenic veins stent placed on the preceding 
day is occluded, with new small focus of partially occlusive 
thrombus ___ the main portal vein adjacent to the stent.  Stable 
occlusion of superior mesenteric vein. 
3. Stable pancreatic mass, enlarged surrounding lymph nodes and 
hepatic 
metastases. 
4. New bibasilar foci of hypoperfusion of atelectatic lung could 
reflect 
pulmonary infarcts, infection, or new metastases.  No filling 
defects are 
identified ___ the pulmonary arteries at the lung bases.  
Probable mild 
pulmonary edema, with increased bilateral pleural effusions. 
5. A small curvilinear hyperdensity ___ the right posterior 
portal vein, 
presumably embolized intravascular glue, has moved slightly 
proximally and abuts the new thrombus ___ the main portal vein. 

Splenic Embolization ___: 
1.  Common celiac/SMA arteries trunk. 
2.  Significantly attenuated proximal splenic artery compatible 
with tumor compression from known pancreatic mass. 
3.  No evidence of active extravasation about the spleen 
although there is increased patchy parenchymal blush ___ the 
lower spleen likely related to recent procedure. 
4.  Gelfoam embolization to slow flow of the distal splenic 
artery. 
5.  Post-embolization splenic artery angiogram demonstrating 
significantly slower filling of the distal splenic arterial tree 
with heterogeneous parenchymal enhancement. 
IMPRESSION: Successful right common femoral artery approach mid 
to distal splenic artery gelfoam embolization to slow flow. 

___ CTA Abd/Pelvis
IMPRESSION:  
1.  Large pneumoperitoneum and perisplenic hematoma are not 
significantly changed ___ size relative to prior study obtained 
___. There is however decreased density of the fluid 
consistent with evolution of blood products. There is no 
evidence of active extravasation. Progressed relative to prior 
study, there is involving splenic infarction. The splenic artery 
appears attenuated by pancreatic mass. 
2.  Patient is status post PDA coil embolization and Amplatzer 
device placement within the spleen, stable ___ position. 
3.  Thrombosed splenic and portal vein stent with a portion of 
thrombus extending outside of the stent and into the distal 
portal vein.  Thrombosis of the superior mesenteric vein is not 
significantly changed. 
4.  Bowel wall thickening and edema involving the splenic 
flexure and descending colon is nonspecific for which attention 
on follow-up is advised, likely ischemic ___ origin. 
5.  Large pancreatic head mass with soft tissue which appears to 
infiltrate the tissue along the greater curvature of the stomach 
___ transverse mesocolon. 
6.  Small curvilinear hyperdensity within the right posterior 
portal vein is presumably embolize intravascular glue, unchanged 
___ appearance and position. 

___ CXR IMPRESSION:  
No significant interval change when compared to the prior study.

___ MRCP
IMPRESSION:  
1.  No intra or extrahepatic biliary ductal dilatation.  
Specifically, no MR evidence for active cholangitis or biliary 
obstruction. 
2.  Known large pancreatic body mass, characterized ___ detail on 
the recent CT examination from ___, with encasement of 
the proximal celiac axis and SMA. 
3.  Numerous liver metastases appear similar to prior. 
4.  Moderate hemoperitoneum appears similar to prior. 
5.  Evolving splenic infarcts, also seen on the prior CT 
examination. 
6.  Unchanged occluded splenic and portal venous stent.  Chronic 
obliteration of the upper SMV by the pancreatic mass. 

MICROBIOLOGY:
==============
___ 11:16 pm MRSA SCREEN      Source: Nasal swab. 
                            **FINAL REPORT ___
   MRSA SCREEN (Final ___:    No MRSA isolated. 
___ 7:55 am SPUTUM      Source: Endotracheal. 
                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      >25 PMNs and <10 epithelial cells/100X field.
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
   RESPIRATORY CULTURE (Final ___: 
      SPARSE GROWTH Commensal Respiratory Flora. 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially susceptible may become resistant within three to four 
days after initiation of therapy.  Testing of repeat isolates 
may be   warranted. 
      ESCHERICHIA COLI.    MODERATE GROWTH. 
                              SENSITIVITIES: MIC expressed ___ 
MCG/ML                 
_________________________________________________________
                             STAPH AUREUS COAG +
                             |          ESCHERICHIA COLI
                             |          |   
AMIKACIN--------------              <=2 S
AMPICILLIN------------             =>32 R
AMPICILLIN/SULBACTAM--             =>32 R
CEFAZOLIN-------------               16 R
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------              <=1 S
CEFTRIAXONE-----------              <=1 S
CIPROFLOXACIN---------              =>4 R
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S     =>16 R
LEVOFLOXACIN----------<=0.12 S
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------<=0.25 S
PIPERACILLIN/TAZO-----              <=4 S
TETRACYCLINE----------   <=1 S
TOBRAMYCIN------------                8 I
TRIMETHOPRIM/SULFA---- <=0.5 S      <=1 S

___ 3:27 am BLOOD CULTURE      R ARM. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 3:54 am URINE      Source: Catheter. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:02 am STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 
                            **FINAL REPORT ___
   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
___ 12:22 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 
 
Brief Hospital Course:
Mr ___ is a ___ male with history of GERD, PUD, depression, 
and recently discovered pancreatic mass with likely liver mets 
s/p EUS ___ with biopsy of a pancreatic mass confirmed 
pancreatic adenocarcinoma p/w massive hematemsis.

# Pancreatic Cancer: came ___ for diagnostic biopsy which showed 
poorly differentiated pancreatic cancer. Patient had a lot of 
pain, both from pancreatic mass and intraperitoneal bleed. 
Patient's case reviewed by liver tumor board and deemed not a 
candidate for surgery. Patient's functional status also too poor 
to begin chemotherapy. After multiple family meetings and goals 
of care discussions patiently ultimately made DNR/DNI and 
discharged home with hospice. 

# UGIB: Hbg 15 at baseline, 9.9 on presentation. Intubated on 
admission ___ setting of hematemesis. On admission (___) 
underwent ___ without clear bleed, but embolization of artery 
(GDA) invaded by tumor. Continued to bleed however, with EGD 
showing gastric varicies, which were glued on ___. However, 
continued bleeding, with CTA on ___ showing re-bleed of 
varicies. Went to ___ on ___ with stenting of thrombosed splenic 
vein, ___ attempt to relieve the splenic HTN which was leading to 
the gastric varicies. However, continued to bleed on ___, with 
EGD showing no bleed from varicies. CT A/P showed bleed into 
splenic capsule/peritoneum from site where splenic stent had 
been placed through the day prior; splenic stent had thrombosed 
___ this interval. Underwent embolization of spleen with 
cessation of bleeding. Pancreatobiliay surgery had been 
consulted ___ the setting of these recurrent bleeds; did not feel 
patient was surgical candidate. On pantoprazole gtt and 
octreotide gtt (total 5 days), and then transitioned to PPI BID. 
___ total recieved 12 U PBRBCs, 2 U FFP, 1 U platelets.

# Direct Hyperbiliruminemia: Unclear etiology from turmor burden 
versus possible medication effect as patient was on ceftriaxone 
for treatment of PNA. Elevated direct bilirubinemia along with 
rising LFTs and WBC raised concern for possible obstructive 
process and/or cholangitis. Patient switched from ceftriaxone to 
zosyn after which LFTs downtrended. CT Abdomen showed no 
evidence of biliary dilitation and MRCP also w/o evidence of 
biliary obstruction or cholangitis. Bilirubin normalized at time 
of discharge.

# Pneumonia: VAP vs aspiration pneumonia ___ setting of 
hematemesis. Intubated ___ setting of hematemesis/need for 
intevention, but remained intubated for several days due to 
heavy sputum production. Sputum eventually speciated out as MSSA 
and E.coli. Initially covered broadly with vanc/cefepime/flagly 
on ___, eventually narrowed to ceftriaxone on ___, with plan 
for ___ut patient switched to zosyn (___) after 
concern for possible gastrointestinal infection.

# Pain control: Has ongoing abdominal pain likely component of 
tumor pain but primarily due to hemoperitoneum. ___ ICU pain 
controlled with MS ___ and dilaudid PCA. After transfer to 
oncology med floor patient, PCS discontinued, written for IV 
dilaudid prn, and eventually transitioned to Fetanyl patch with 
PO dilaudid for breakthrough pain.   

# Fall: Occurred overnight on medicine floor while attempting to 
ambulate to the bathroom and positive head strike. Unclear 
etiology which patient describes mechanical but also may have 
some presyncopal symptoms. CT head w/o bleed or mass. Patient 
found to be orthostatic and given IVF.

====================
Transitional Issues:
====================
- Patient started on bowel regimen due to constipation. Please 
monitor bowel movements and adjust anti-constipation medications 
as needed.
- Patient started on fentanyl patch with dilaudid for 
breakthrough pain. Please continue to monitor pain and adjust 
pain medications as needed.
- Patient started on Ritalin for fatigue. Please monitor and 
adjust Ritalin as needed.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. Pantoprazole 40 mg PO Q12H 
3. Morphine Sulfate ___ 15 mg PO Q4H:PRN pain 
4. Lactulose 30 mL PO Q6H:PRN constipation 
5. Senna 8.6 mg PO BID:PRN constipation 
6. Docusate Sodium 100 mg PO BID 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Ondansetron 4 mg PO Q8H:PRN nausea
 
Discharge Medications:
1. Bisacodyl 10 mg PO/PR DAILY:PRN Constipation 
RX *bisacodyl 10 mg Use 1 suppository rectally daily Disp #*14 
Suppository Refills:*0
2. Fentanyl Patch 50 mcg/h TD Q72H 
RX *fentanyl 50 mcg/hour Apply 1 patch every 72 hours Disp #*5 
Patch Refills:*0
3. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN breakthrough pain  

RX *hydromorphone [Dilaudid] 2 mg Take ___ tablets by mouth 
every 3 hours Disp #*80 Tablet Refills:*0
4. MethylPHENIDATE (Ritalin) 2.5-5 mg PO BID:PRN fatigue 
Take at 8AM and noon. 
RX *methylphenidate 5 mg Take ___ to 1 tablet by mouth twice 
daily Disp #*30 Tablet Refills:*0
5. Metoclopramide 10 mg PO QIDACHS 
RX *metoclopramide HCl 10 mg Take 1 tablet by mouth four times 
per day Disp #*56 Tablet Refills:*0
6. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg Take 1 tablet by mouth every 8 hours Disp 
#*14 Tablet Refills:*0
7. Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 17 gram/dose Take 17g powder by 
mouth daily Refills:*0
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg Take 1 capsule by mouth twice daily 
Disp #*30 Capsule Refills:*0
9. Lactulose 30 mL PO DAILY 
RX *lactulose 20 gram/30 mL Take 1 30 mL by mouth daily 
Refills:*0
10. Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg Take 1 tablet by mouth twice daily 
Disp #*30 Tablet Refills:*0
11. Sertraline 100 mg PO DAILY 
RX *sertraline 100 mg Take 1 tablet by mouth daily Disp #*14 
Tablet Refills:*0
12. TraZODone ___ mg PO QHS:PRN insomnia 
RX *trazodone 50 mg Take ___ to 1 tablet by mouth every night 
Disp #*14 Tablet Refills:*0
13. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg Take 1 tablet by mouth twice daily Disp 
#*30 Tablet Refills:*0
 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
- Pancreatic Adenocarcinoma
- Upper GI bleed
- Ventilator Associated Pneumonia
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted after vomiting massive amounts 
of blood requiring multiple transfusions and admission to the 
Intesive Care Unit. ___ the ICU your blood counts were stabilized 
after undergoing multiple procedures to prevent bleeding from 
veins ___  your stomach and into your spleen. You were 
transferred to the oncology medicine floor where your abdominal 
pain, appetite, and mobility were managed. You and your family 
discussed possible options and decided to go home with hospice 
care to be with your family.

We wish you and your family the best,
The ___ Team
 
Followup Instructions:
___